data/pmechdb/original/mc_train_fold0/raw/train.txt
CC12CC[C:20](=[O+:21]C)C(C1CC=C)(C=C2)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC12CC[C:20](C(C1CC=C)(C=C2)C)([OH2+:10])[O:21]C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC1=C(C(=O)N2CC[C:20](=[OH+:21])C2=C1)C#N.C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=C(C(=O)N2CC[C:20](C2=C1)([OH:21])[OH+:10]CCO)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH2:21][S+](C)OCC.OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.CCO[S+](C)[CH2-:21] 10=20;20,21=21
[H:20][O:21]C(C)(C)C1C(O1)C.[OH:10][Na].O>>[H:20][OH+:10][Na].CC1C(O1)C(C)(C)[O-:21].O 10=20;20,21=21
C[P:10](C)C.[Br:20][Br:21]>>C[P+:10](C)(C)[Br:20].[Br-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C=C)(O)OC(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C=C)(O)OC(=O)C 10=20;20,21=21
[H:20][OH2+:21].C1CC(=[O:10])OC1>>[H:20][O+:10]=C1CCCO1.[OH2:21] 10=20;20,21=21
CC[NH:10][C:20](C)(CCC(=O)OCC)[OH2+:21]>>CC[NH+:10]=[C:20](C)CCC(=O)OCC.[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(=C)[N:10]1CCCC1>>[H:20][N+:10]1(CCCC1)C(=C)C.CC(=O)[O-:21] 10=20;20,21=21
CCC(C)C[CH:20]=[O:21].C1CC[NH:10]CC1.CCOC(=O)CC(=O)C.CC(=O)O>>CCC(C)C[CH:20]([NH+:10]1CCCCC1)[O-:21].CCOC(=O)CC(=O)C.CC(=O)O 10=20;20,21=21
[H:20][OH2+:21].COC=[O:10]>>[H:20][O+:10]=COC.[OH2:21] 10=20;20,21=21
[H:20][N+:21]12C=CC=C1C(=O)N3CCCC3C2O.CC(=O)[O-:10].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>[H:20][O:10]C(=O)C.C1CC2C([N:21]3C=CC=C3C(=O)N2C1)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
[H:20][OH2+:21].C(CO)C(O)[OH:10]>>[H:20][OH+:10]C(CCO)O.[OH2:21] 10=20;20,21=21
C[CH:20]1[NH+:21](CCC[O:10]1)C>>C[CH:20]=[O+:10]CCC[NH:21]C 10=20;20,21=21
[H:20][C:21](C(C(C=CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)OCC2=CC=CC=C2)(C3(C(OC4(O3)CCCC4)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[O:22][I+:23]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.C1=CC=[N:10]C=C1.CC(=O)[O-].C1=CC=[NH+]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(C)(C)OC(=O)C1C(OC2(O1)CCCC2)([C:21](=[O:22])C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)C(=O)OC(C)(C)C.CC(=O)[O-].C1=CC=[NH+]C=C1 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C(C)C(C)[Si](C)(C)C)C(C(F)(F)F)([O-])OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CC(C(C)[Si](C)(C)C)[O:21]C(C(F)(F)F)([O-])OC(=O)C(F)(F)F 10=20;20,21=21
CCN[C:20](C)([O-:10])[O:21]CC>>CCN[C:20](=[O:10])C.CC[O-:21] 10=20;20,21=21
C[As+](C)(C)[CH-:10][CH2:20][OH+:21][K]>>C[As+](C)(C)[CH:10]=[CH2:20].[OH:21][K] 10=20;20,21=21
CC=CC[O-:10].CC(=O)O[C:20](=[O:21])C>>CC=CC[O:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[N:10]=[N:20][OH2+:21])OC.O>>[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[N+:10]#[N:20])OC.[OH2:21].O 10=20;20,21=21
[B-]1(OC2=C(O1)C=CC=C2)(C=[C+:20]C3=C(C=CC=C3)C(=[O:10])OC)Cl>>[B-]1(OC2=C(O1)C=CC=C2)(C=[C:20]3C4=C(C=CC=C4)C(=[O+:10]3)OC)Cl 10=20,
C[Si:20](C)(C)C1(CC1)C2(CCCCC2)[O-:10].[K+]>>C[Si-:20]1(C2(CC2)C3([O:10]1)CCCCC3)(C)C.[K+] 10=20,
CO[C:11]1=[CH:10]C=C(C2=CC=CC=C21)Br.[Br:20][Br:21]>>CO[C+:11]1[CH:10](C=C(C2=CC=CC=C21)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC1C([CH:11]([O:12]C2C1OC(OC2)C3=CC=C(C=C3)OC)[O:10][P+:20](OC)(OC)OC)C.C1=CC=[NH+]C=C1.[Br-]>>CC1[CH:11]=[O+:12]C2COC(OC2C1C)C3=CC=C(C=C3)OC.CO[P:20](=[O:10])(OC)OC.C1=CC=[NH+]C=C1.[Br-] 10,11=10,20;12=11
CC12CCC(=CC1(C(=[C+]C[Si:20](C)(C)C)CC2)C)O.CS(=O)(=O)[O-:10]>>CC12CCC(=CC1(C(=[C+]C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C)CC2)C)O 10=20,
CCC(C)[C+:20](C)CC.[OH2:10]>>CCC(C)[C:20](C)(CC)[OH2+:10] 10=20,
CC[CH:20](C)[O:21]S(=O)(=O)C(F)(F)F.CC[O-:10]>>CC[CH:20](C)[O:10]CC.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1[CH:22](C(CC2=C1C(=CC=C2OC)OC)O)[N+:23](C)([CH2-:10])C3=CC=C(C=C3)OC.[Li+].CCCC>>[H:20][CH2:10][N:23](C)C1=CC=C(C=C1)OC.COC1=CC=C(C2=C1CC([CH:22]=[CH:21]2)O)OC.[Li+].CCCC 10=20;22,23=23;20,21=21,22
CN1C2CCCC1C[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)C2.C1CC[NH:10]C1>>CN1C2CCCC1C[C:20](C2)([NH+:10]3CCCC3)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
CC(=O)CC1CC[CH:20]([C:10]1=[C:11](C)[O-:12])[S:21]C2=CC=CC=C2.O.[K+]>>CC(=O)CC1CC[CH:20]=[C:10]1[C:11](=[O:12])C.C1=CC=C(C=C1)[S-:21].O.[K+] 10,11=10,20;20,21=21;12=11
[H:20][C:21](=[C:22](C)[Br:23])C.CC(C)[N-:10]C(C)C>>C[C:21]#[C:22]C.[Br-:23].[H:20][N:10](C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
C1CC12C3C[CH+:20][CH:11]2[C:10]4=CC=CC=C34.O>>C1CC12[CH+:11][CH:20]3CC2C4=CC=CC=[C:10]34.O 10,11=10,20
C1(=NC(=N[C:20](=[N:21]1)Cl)Cl)Cl.[OH2:10]>>C1(=NC(=N[C:20]([N-:21]1)([OH2+:10])Cl)Cl)Cl 10=20;20,21=21
[H:20][CH:21]1C(=O)CCC[C+:22]1C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[CH:21]C(=O)CCC1 10=20;20,21=21,22
[H:20][C:21]#CC.C[O:10][K]>>[H:20][O+:10](C)[K].CC#[C-:21] 10=20;20,21=21
[H:20][O+:21](CCO)C(C)(C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C)O.C1=CC=[N:10]C=C1.[Cl-]>>[H:20][N+:10]1=CC=CC=C1.CC12CCC3C(C1CCC2C(C)(O)[O:21]CCO)CC=C4C3(CCC(C4)O)C.[Cl-] 10=20;20,21=21
C[O:10][CH:20]=[S:21]>>C[O+:10]=[CH:20][S-:21] 10=20;20,21=21
[H:20][OH2+:21].CCNC[CH:10]=[CH:11][N-:12]C>>[H:20][CH:10](CNCC)[CH:11]=[N:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
